US07947680B2
Step 2: 6-Methyl-pyrazine-2-carboxylic acid {3-[3-(2-hydroxy-2-methylpropoxy)-benzoylamino]-adamantan-1-yl}-amide
Reaction of 6-methyl-pyrazine-2-carboxylic acid {3-[3-(2-oxo-propoxy)-benzoyl-amino]-adamantan-1-yl}-amide with MeMgBr in THF or ether at 0° C. could yield the title compound, 6-methyl-pyrazine-2-carboxylic acid {3-[3-(2-hydroxy-2-methylpropoxy)-benzoylamino]-adamantan-1-yl}-amide.

reactant | 6-methyl-pyrazine-2-carboxylic acid {3-[3-(2-oxo-propoxy)-benzoyl-amino]-adamantan-1-yl}-amide | O=C(COC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)NC(=O)C3=NC(=CN=C3)C)C=CC1)C | C26H30N4O4
reactant | MeMgBr | C[Mg+].[Br-]
solvent | THF | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 6-methyl-pyrazine-2-carboxylic acid {3-[3-(2-hydroxy-2-methylpropoxy)-benzoylamino]-adamantan-1-yl}-amide | OC(COC=1C=C(C(=O)NC23CC4(CC(CC(C2)C4)C3)NC(=O)C3=NC(=CN=C3)C)C=CC1)(C)C | C27H34N4O4
